US04261890
A solution of 8.3 g. (0.05 mole) of α-(1-amino-1-methylethyl)benzenemethanol, 9.8 g. (0.05 mole) of 3,4-dimethoxyphenylacetic acid and 13.6 g. (0.055 mole) of EEDQ (Aldrich Chem. Co.) in 300 ml. of tetrahydrofuran-ethanol is refluxed for 45 minutes and then allowed to stand for 20 hours at 25° C. The solution is evaporated in vacuo. The residue is taken up with 250 ml. of ethyl acetate, washed with dilute HCl, followed by washing with aqueous NaHCO3. Subsequently, the extract is washed with aqueous NaCl, dried (Na2SO4) and evaporated to dryness in vacuo. Crystallization of the residue from ether gives 14.0 g. (82% yield) of pure 2-(3,4-dimethoxyphenyl)-N-(β-hydroxy-α,α-dimethylphenethyl)acetamide, m.p. 123°-124° C.

reactant | α-(1-amino-1-methylethyl)benzenemethanol | 0.05 mole | NC(C)(C)C(O)C1=CC=CC=C1 | C10H15NO
reactant | 3,4-dimethoxyphenylacetic acid | 0.05 mole | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | EEDQ | 0.055 mole | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | tetrahydrofuran-ethanol | O1C(CCC1)CCO | C6H12O2
product | 2-(3,4-dimethoxyphenyl)-N-(β-hydroxy-α,α-dimethylphenethyl)acetamide | 82% yield | COC=1C=C(C=CC1OC)CC(=O)NC(C(C1=CC=CC=C1)O)(C)C | C20H25NO4
